* actuator_channel — субсхема из нетлиста KiCad + YAML
.subckt actuator_channel FB FB_RAW GND ILIM IN1 IN2 MOTOR_A MOTOR_B VCC_12V
  C1 VCC_12V GND 100n
  C2 FB GND 100n
  R1 ILIM GND 33k
  R2 FB_RAW FB 10k
  R3 FB GND 20k
  XU1 IN1 IN2 MOTOR_A MOTOR_B VCC_12V GND DRV8871
.ends actuator_channel
